US03960932
A mixture of 0.25 mmole PdBr2 [P(C6H5)3 ]2 , 19 mmoles tri-n-butylamine and 17.2 mmoles 1-bromonaphthalene was formylated under 1225 psig of a 1:1 mixture of carbon monoxide and hydrogen at 125°C for 24 hrs. with magnetic stirring. There was isolated from the reaction mixture an 82% yield of 1-naphthaldehyde, b.p. 147°-149°C (12mm) and 17% naphthalene.

reactant | tri-n-butylamine | 19 mmoles | C(CCC)N(CCCC)CCCC | C12H27N
reactant | 1-bromonaphthalene | 17.2 mmoles | BrC1=CC=CC2=CC=CC=C12 | C10H7Br
reactant | carbon monoxide | [C]=O | CO
reactant | hydrogen | [H][H] | H2
reactant | naphthalene | C1=CC=CC2=CC=CC=C12 | C10H8
product | 1-naphthaldehyde | 82% yield | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
